US08048878B2
Synthesis of (6R*,9aS*)-3-iodo-6-(4-methoxyphenyl)octahydroquinolizin-4-one
Iodotrimethylsilane (0.02 mL) was added to a solution of (6R*,9aS*)-6-(4-methoxyphenyl)octahydroquinolizin-4-one (23 mg) and N,N,N′,N′-tetramethylethylenediamine (0.05 mL) in methylene chloride (3 mL) at 0° C., and the reaction solution was stirred at 0° C. for 30 minutes. Iodine (34 mg) was added to the reaction solution, which was then stirred at 0° C. for one hour. Ethyl acetate and a saturated sodium thiosulfate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 34 mg of the title compound. The property value of the compound is as follows.

reactant | Iodotrimethylsilane | 0.02 mL | I[Si](C)(C)C | C3H9ISi
reactant | (6R*,9aS*)-6-(4-methoxyphenyl)octahydroquinolizin-4-one | 23 mg | COC1=CC=C(C=C1)[C@@H]1N2C(CCC[C@@H]2CCC1)=O | C16H21NO2
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.05 mL | CN(CCN(C)C)C | C6H16N2
reactant | Iodine | 34 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6R*,9aS*)-3-iodo-6-(4-methoxyphenyl)octahydroquinolizin-4-one | 34 mg | IC1CC[C@@H]2CCC[C@@H](N2C1=O)C1=CC=C(C=C1)OC | C16H20INO2
